US07425631B2
Step I. Preparation of methanesulfonic acid 2-{5-[3-(4-fluoro-phenyl)-3-(3-trifluoromethyl-benzenesulfonylamino)-propionylamino]-5,6,7,8-tetrahydro-quinazolin-2-yl}-ethyl ester
To a solution of 3-(4-fluorophenyl)-N-[2-(2-hydroxy-ethyl)-5,6,7,8-tetrahydro-quinazolin-5-yl]-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide (56.6 mg, 0.1 mmol) in dry CH2Cl2 at 0 C was added MsCl (34 mg, 0.3 mmol), followed by Et3N (50 mg, 0.5 mmol). After stirring at 0° C. for 20 min, the reaction was quenched with Sat. NaHCO3 solution, extracted with EtOAc, dried over Na2SO4, and evaporated in vacuo. Flash chromatography (SiO2, EtOAc/MeOH=100:3 to 100:5 to 100:7) gave the title compound as a white solid. MS: 645.0 (M+1).

reactant | 3-(4-fluorophenyl)-N-[2-(2-hydroxy-ethyl)-5,6,7,8-tetrahydro-quinazolin-5-yl]-3-(3-trifluoromethyl-benzenesulfonylamino)-propionamide | 0.1 mmol, 56.6 mg | FC1=CC=C(C=C1)C(CC(=O)NC1C=2C=NC(=NC2CCC1)CCO)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C26H26F4N4O4S
reactant | MsCl | 0.3 mmol, 34 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 0.5 mmol, 50 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-{5-[3-(4-fluoro-phenyl)-3-(3-trifluoromethyl-benzenesulfonylamino)-propionylamino]-5,6,7,8-tetrahydro-quinazolin-2-yl}-ethyl ester | FC1=CC=C(C=C1)C(CC(=O)NC1C=2C=NC(=NC2CCC1)CCOS(=O)(=O)C)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C27H28F4N4O6S2
